US06492383B1
[6-(3,4-Dimethoxy-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine
The title compound was prepared from 3,4-dimethoxybenzeneboronic acid and (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 2. M.P. 171-178° C.; LC-MS: 403 (MH+); HPLC RT: 4.11 minutes.

reactant | 3,4-dimethoxybenzeneboronic acid | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine | BrC1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C14H9BrN4S
product | [6-(3,4-Dimethoxy-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine | COC=1C=C(C=CC1OC)C1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C22H18N4O2S
